US07745451B2
B. 5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[4,3-d]pyrimidin-4-amine
A mixture of 6-benzyl-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine (0.742 g, 1.98 mmol), ammonium formate (1.25 g, 19.83 mmol) and palladium, 10% wt. on activated carbon (75 mg) in methanol (10 mL) is heated to 60° C. for 2 h. The mixture is cooled to r.t. and filtered over celite. The filtrate is concentrated under reduced pressure to give a white solid which is dissolved in water. The mixture is extracted twice with a 3:1 mixture of chloroform: isoproanol. The combined organic extracts are dried over sodium sulfate and concentrated to dryness to give the title compound.

reactant | 6-benzyl-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine | 1.98 mmol, 0.742 g | C(C1=CC=CC=C1)C1CC2=C(N=CN=C2NC2=CC3=C(OCCO3)C=C2)CN1 | C22H22N4O2
reactant | ammonium formate | 19.83 mmol, 1.25 g | C(=O)[O-].[NH4+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
catalyst | palladium | [Pd] | Pd
product | 5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[4,3-d]pyrimidin-4-amine | O1C2=C(OCC1)C=C(C=C2)NC=2C1=C(N=CN2)CCNC1 | C15H16N4O2
